US07906528B2
To a solution of 2-bromo-4-isopropyl-1-methyl-benzene (863 mg, 4.0 mmol) in 10 mL of THF is added a solution of t-BuLi (1.7 M in pentane, 4.7 mL) dropwise at below −70° C. After addition, the reaction mixture is stirred at −78° C. for one hour. A solution of DMF (0.46 mL) in 1 mL of THF is added at the same temperature and stirred for additional one hour. The reaction mixture is allowed to warm to room temperature then poured into a mixture containing ice (50 g) and concentrated HCl (2 mL) and stirred for 15 minutes. To the mixture, ethyl ether (20 mL) is added. The organic layer is separated and the aqueous layer is extracted with ethyl ether. The organic solutions are combined, washed with brine, dried and concentrated to give 600 mg of 5-isopropyl-2-methyl-benzaldehyde. 1H NMR: (CDCl3) 10.27 (s, 1H), 7.66 (d, 1H), 7.34 (d, 1H), 7.17 (d, 1H), 2.94 (m, 1H), 2.63 (s, 3H), 1.24 (d, 6H).

reactant | 2-bromo-4-isopropyl-1-methyl-benzene | 4.0 mmol, 863 mg | BrC1=C(C=CC(=C1)C(C)C)C | C10H13Br
reactant | t-BuLi | 1.7 M, 4.7 mL | [Li]C(C)(C)C
reactant | DMF | 0.46 mL | CN(C)C=O | C3H7NO
reactant | HCl | 2 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | ethyl ether | 20 mL | C(C)OCC | C4H10O
product | 5-isopropyl-2-methyl-benzaldehyde | 600 mg | C(C)(C)C=1C=CC(=C(C=O)C1)C | C11H14O
